US04965270
To a solution of 2-amino-9-[1,4-bis(4-methoxybenzyloxy)but-2-oxy]-6-chloropurine (0.94 g, 1.8 mmol) in dichloromethane (7.2 ml) and methanol (0.8 ml) was added 2,3-dichloro-5,6-dicyanobenzoquinone (0.91 g, 4.0 mmol) and the solution was stirred at room temperature for 80 minutes. The solution was diluted with dichloromethane (8 ml) and extracted with water (3×8 ml). The aqueous layers were combined, filtered and the solvent removed. The residue was purified by reverse-phase column chromatography on Spherisorb C18 300 silica eluting with 10% methanol in water followed by column chromatography on silica gel eluting with chloroform-methanol (12:1). The product was suspended in a solution of ammonium formate (208 mg, 3.3 mmol) in methanol (8 ml), 10% palladium-on-charcoal was added (25 mg) and the mixture was heated under reflux. After 30 minutes further 10% palladium-on-charcoal (10 mg) was added and the mixture was heated under reflux for a further 1 hour. The mixture was allowed to cool and water (2 ml) was added. The solution was filtered and the solvent was removed. The residue was purified by reverse-phase column chromatography on Spherisorb C18 300 silica eluting with water and 10% methanol to afford 2-amino-9-(1,4-dihydroxybut-2-oxy)purine (155 mg, 36%), m.p. 178°-179° C.; UV: λmax (H2O) 222 (ε24,100) and 304 (ε7,020)nm; IR: υmax (KBr) 3330, 3210, 3070, 1655, 1640, 1580, 1510, 1480 and 1435 cm-1 ; 1H NMR: δH [(CD3)2SO] 1.84 (2H, q, J=6.4 Hz, 3'-H), 3.58 (4H, m, 1'-H and 4'-H), 4.42 (1H, m, 2'-H), 4.63 (1H, t, J=5.2 Hz, D2O exchangeable, OH), 4.98 (1H, t, J=5.9 Hz, D2O exchangeable, OH), 6.70 (2H, s, D2O exchangeable, 2-NH2), 8.23 (1H, s, 8-H) and 8.59 (1H, s, 6-H). Found: C, 45.13; H, 5.47; N, 29.30%. C9H13N5O3 requires C, 45.18; H, 5.48; N, 29.27%.

reactant | 2-amino-9-[1,4-bis(4-methoxybenzyloxy)but-2-oxy]-6-chloropurine | 1.8 mmol, 0.94 g | NC1=NC(=C2N=CN(C2=N1)OC(COCC1=CC=C(C=C1)OC)CCOCC1=CC=C(C=C1)OC)Cl | C25H28ClN5O5
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 4.0 mmol, 0.91 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | ammonium formate | 3.3 mmol, 208 mg | C(=O)[O-].[NH4+]
reactant | water | 2 ml | O | H2O
solvent | dichloromethane | 7.2 ml | ClCCl | CH2Cl2
solvent | methanol | 0.8 ml | CO | CH4O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | methanol | 8 ml | CO | CH4O
solvent | palladium-on-charcoal | [Pd] | Pd
catalyst | palladium-on-charcoal | 10 mg | [Pd] | Pd
product | 2-amino-9-(1,4-dihydroxybut-2-oxy)purine | 155 mg, 36% | NC1=NC=C2N=CN(C2=N1)OC(CO)CCO | C9H13N5O3
